US04303655
A mixture of ethyl 2-(2-amino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (20 g.) and methyl isothiocyanate (73 g.) was stirred for 5 hours at 90° to 95° C. After the reaction, to the reaction mixture was added diethyl ether. The precipitates were collected by filtration, washed with diethyl ether and then dried to give ethyl 2-[2-[3-(methyl)thioureido]-1,3-thiazol-4-yl]glyoxylate, which can be represented as ethyl 2-[2-[3-(methyl)thioureido]-2,3-dihydro-1,3-thiazol-4-yl]glyoxylate, (21.3 g.), mp. 121° to 123° C.

reactant | ethyl 2-(2-amino-1,3-thiazol-4-yl)glyoxylate | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | N=C1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | methyl isothiocyanate | 73 g | CN=C=S | C2H3NS
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 2-[2-[3-(methyl)thioureido]-1,3-thiazol-4-yl]glyoxylate | CNC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C9H11N3O3S2
